US07001925B1
5-[(Anthracen-9-ylmethyl)-amino]-pentan-1-ol, 4d.
The General Procedure for the N-Boc protection of N-(Anthracen-9-ylmethyl)amino alcohols 4 to give 5. The solution of N-(anthracen-9-ylmethyl)-amino alcohol (5 mmol) in 20 mL of pyridine-methanol (1:5 v/v) was stirred at 0° C. for 10 min. A solution of di-tert-butyl dicarbonate (7.5 mmol) in methanol (5 mL) was added dropwise over ten minutes. The temperature was allowed to rise to room temperature and the reaction was stirred overnight. The mixture was evaporated to dryness under reduced pressure. The residue was dissolved in methylene chloride, and washed with deionized water several times. The organic layer was separated, dried over anhydrous Na2SO4, filtered, and concentrated under vacuum. The residue was purified by flash chromatography on silica gel.

reactant | N-(anthracen-9-ylmethyl)-amino alcohol | 5 mmol | C1=CC=CC2=CC3=CC=CC=C3C(=C12)CNO | C15H13NO
reactant | di-tert-butyl dicarbonate | 7.5 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | pyridine-methanol | 20 mL | N1=C(C=CC=C1)CO | C6H7NO
solvent | methanol | 5 mL | CO | CH4O
product | 5-[(Anthracen-9-ylmethyl)-amino]-pentan-1-ol | C1=CC=CC2=CC3=CC=CC=C3C(=C12)CNCCCCCO | C20H23NO
